US08633175B2
Step 1: 2-(4-Hydroxyphenyl)-1,3-thiazole-4-carboxylic Acid
4-Hydroxybenzenecarbothioamide (1.53 g, 10 mmol) and potassium hydroxide (1.50 g, 26.8 mmol) were dissolved in a mixture of 60 ml of water and 15 ml of methanol. A solution of bromopyruvic acid (1.67 g, 10 mmol) in 10 ml of methanol was added dropwise at room temperature. The resulting mixture was heated to reflux for 1.5 h, cooled to room temperature, poured into 100 ml of water and adjusted with 0.2N HCl solution to pH2. The mixture was placed in a refrigerator for 15 h. The title compound was obtained by filtration as a brown solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 6.82 (d, 2H), 7.78 (d, 2H), 8.37 (s, 1H), 10.05 (s, 1H), 13.00 (s, 1H).

reactant | 4-Hydroxybenzenecarbothioamide | 10 mmol, 1.53 g | OC1=CC=C(C=C1)C(N)=S | C7H7NOS
reactant | potassium hydroxide | 26.8 mmol, 1.50 g | [OH-].[K+]
reactant | bromopyruvic acid | 10 mmol, 1.67 g | BrCC(C(=O)O)=O | C3H3BrO3
reactant | HCl | 0.2N | Cl | ClH
solvent | water | 60 ml | O | H2O
solvent | methanol | 15 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 2-(4-Hydroxyphenyl)-1,3-thiazole-4-carboxylic Acid | OC1=CC=C(C=C1)C=1SC=C(N1)C(=O)O | C10H7NO3S
